US07199239B2
Intermediate 34: Ethyl [2-methyl-4-({[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}methyl)phenoxy]acetate
To a solution of ethyl (4-formyl-2-methylphenoxy)acetate (0.2 g, 0.9 mmol) in anhydrous CH2Cl2 (8 mL) was added 4′-(trifluoromethyl)-1,1′-biphenyl-3-ylamine (0.214 g, 0.9 mmol). The resulting mixture was stirred under nitrogen at room temperature for 15 mins, prior to addition of sodium triacetoxyborohydride (0.267 g, 1.26 mmol) and acetic acid (0.052 mL, 0.9 mmol). The resultant mixture was stirred for 18 h prior to quenching by cautious addition of sat. sodium bicarbonate solution (20 mL) the reaction mixture was then extracted CH2Cl2 (20 mL). The organic extract separated by hydrophobic frit and the solvent removed in vacuo. Purification by Biotage™ chromatography (Silica, 40 g) eluting 9:1 cyclohexane:EtOAc afforded the title compound as a colourless oil (0.342 g).

reactant | ethyl (4-formyl-2-methylphenoxy)acetate | 0.9 mmol, 0.2 g | C(=O)C1=CC(=C(OCC(=O)OCC)C=C1)C | C12H14O4
reactant | 4′-(trifluoromethyl)-1,1′-biphenyl-3-ylamine | 0.9 mmol, 0.214 g | FC(C1=CC=C(C=C1)C1=CC(=CC=C1)N)(F)F | C13H10F3N
reactant | sodium triacetoxyborohydride | 1.26 mmol, 0.267 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.9 mmol, 0.052 mL | C(C)(=O)O | C2H4O2
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
product | Ethyl [2-methyl-4-({[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}methyl)phenoxy]acetate | 0.342 g | CC1=C(OCC(=O)OCC)C=CC(=C1)CNC=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F | C25H24F3NO3
